US06479510B2
Step C. Preparation of Methyl 4-(4-acetamidophenoxy)benzoate
Dry air is bubbled through a solution of 4-acetamidophenol (320 mg, 2.1 mmol), copper(II) acetate (384 mg, 2.1 mmol), TEA (1.5 mL, 10.5 mol), (4-methoxycarbonylphenyl)boronic acid (760 mg, 4.2 mmol), and powdered molecular sieves (2 g) in CH2Cl2 (21 mL) for 16 hours at room temperature. The resulting material is concentrated and purified by flash column chromatography (25-50% EtOAc in heptane) to give the desired product (450 mg, 75%). 1H NMR (300 MHz, DMSO) δ8.01, 7.54, 7.27, 7.05, 6.98, 3.92, 2.22.

reactant | 4-acetamidophenol | 2.1 mmol, 320 mg | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | (4-methoxycarbonylphenyl)boronic acid | 4.2 mmol, 760 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 2.1 mmol, 384 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl 4-(4-acetamidophenoxy)benzoate | 450 mg, 75% | C(C)(=O)NC1=CC=C(OC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H15NO4
